US07932247B2
[(6-Fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]{[3(4-piperidinylmethyl)Phenyl]methyl}amine
A solution of N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide (100 mg, 0.194 mmol) in THF (2.0 mL) was added to lithium aluminum hydride (1.0 N in THF, 2 mL, 2 mmol). The mixture was heated in a microwave reactor at 80° C. for 60 minutes. After cooling to room temperature, the reaction mixture was carefully quenched with saturated Na2SO4, filtered through celite, dried over K2CO3 and concentrated under vacuum to give a crude oil. Further purification by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 min), gave the title compound (80 mg, 82%) as an oil. LC/MS: m/z, 502 (M+H), 1.29 min.

reactant | N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide | 0.194 mmol, 100 mg | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNC(C1=CC(=CC=C1)CC1CCNCC1)=O | C32H39FN4O
reactant | lithium aluminum hydride | 2 mmol, 1.0 N, 2 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | [(6-Fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]{[3(4-piperidinylmethyl)Phenyl]methyl}amine | 80 mg, 82% | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNCC1=CC(=CC=C1)CC1CCNCC1 | C32H41FN4
